US07560564B2
Step A: Preparation of 5-amino-1-methyl-N-(1-methylethyl)-1H-pyrazole-4-carboxamide
1.0 g (8.0 mmol) of 2-cyano-N-(1-methylethyl)acetamide (prepared according to the procedure of Cheikh et al J. Org. Chem., 1991, 56, 970) was combined with 3.1 mL of triethylorthoformate, 5 mL of acetic anhydride and 0.01 g of anhydrous zinc chloride. The mixture was refluxed for 1 hour. A distillation head was placed on the flask and the reaction was heated at 120° C. for 8 hours. After standing for two days the mixture was heated again for 12 hours at 120° C. for 12 hours. The volatiles were removed with a rotary evaporator. Ethanol was added and the volatiles were again removed with a rotary evaporator. This material was dissolved in 15 mL of ethanol. 0.34 mL (6.4 mmol) of methyl hydrazine was added. The reaction mixture was refluxed for 5 hours and then allowed to stand at room temperature overnight. The solvent was removed with a rotary evaporator. The residue was purified by MPLC (ethyl acetate as eluant) to afford 0.14 g of the title compound as a solid.

reactant | 2-cyano-N-(1-methylethyl)acetamide | 8.0 mmol, 1.0 g | C(#N)CC(=O)NC(C)C | C6H10N2O
reactant | triethylorthoformate | 3.1 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl hydrazine | 6.4 mmol, 0.34 mL | CNN | CH6N2
catalyst | zinc chloride | 0.01 g | [Cl-].[Zn+2].[Cl-]
product | 5-amino-1-methyl-N-(1-methylethyl)-1H-pyrazole-4-carboxamide | 0.14 g | NC1=C(C=NN1C)C(=O)NC(C)C | C8H14N4O
